Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / oxycodone / prednisone
 
Attending: ___.
 
Chief Complaint:
weakness, fevers, paresthesias
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is a ___ female with recent history of
steroid-induced weakness and anxiety/restlessness who presents
with worsening symptoms of weakness, night-drenching sweats,
fevers, cold/hot intolerance and episodes bilateral lower
extremity pain with transient episodic skin changes. 

Patient was discharged from rehab on ___ after a recent hospital
admission for steroid-induced weakness and panic attacks. Since
then, and specifically since ___, she has had fevers every
night soaking through her pajamas, requiring her to change. She
is also had "beet red" bilateral lower extremities with burning
paresthesias making it difficult for her to walk. She is also 
had
a profound sense of generalized weakness, not being able to
engage in her normal daily activities. On further ROS< patient
reports 4 month history of creamy nipple discharge despite last
having breastfed over ___ years ago. She has also had hair
thinning and more recently thickening behind her neck which she
attributes to the steroids. She was essentially on methylpred
then prednisone on and off for about a month with recent taper
off in the setting of steroid-induced panic attacks and
restlessness. She also notes significant loss of muscle mass 
over
the past month where she was previously quite active and now it
requires taxing effort to do anything at all.

___ has had a very stressful past 2 months including 
multiple
ED visits and a hospitalization. Brief timeline below:

- ___ - ?anaphylaxis at work. Was sitting at work. A vent
opened above her releasing air. She suddenly developed sensation
of her throat closing, difficulty breathing, increasing
periorbital swelling/fleshiness. Went to bathroom and started
tearing. Coworkers called for help and she was taken to ED.
Concern for anaphylaxis. Given prednisone 125 mg and started on 
a
methylprednisolone taper.

- ___ - underwent allergy testing - positive for pollen and
mold, mildly positive for cats/dogs

- ___ - another episode of throat closing, 
neck/shoulder/upper
arm swelling - went back to ED, received epinephrine, prednisone
60 mg --> 50 mg x3 days. Told to take prednisone and Benadryl 
-->
felt worse.

- ___ - tapering on prednisone; developed swelling in her
feet/legs, sleeplessness, restlessness, anxiety, heat
sensitivity. She was ultimately hospitalized at ___ in ___. Treated for strep throat; given 
antibiotics.
Admitted for rapid steroid taper; ___ prednisone 20 mg x1
(this was her most recent dose of prednisone); numbness in
bilateral ___ below knees. Experienced body aches, formication,
back pain, prickliness in feet. MRI showed "mild degenerative 
?".
Apparently she was diagnosed with anticholinergic syndrome from
too much Benadryl. Her discharge diagnoses from her discharge
summary also include steroid-induced psychosis, anaphylactic
reaction of unclear etiology, and anxiety and panic attacks.

- ___ - discharged to rehab (___)
- ___ - discharged from rehab
- ___ - seen in ___ clinic at ___. 

In the ED: 
VS: AFVSS
ECG: within normal limits
PE: Nonfocal neuro exam but for burning paresthesias to the 
level
of the knee bilaterally
Patient is ___ with very dark skin, however the
soles of her feet are red and splotchy.
Otherwise benign exam
Labs: CBC/CMP unremarkable except for mild leukopenia to 3.4
Imaging: CXR negative
Impression: Medicine admission for this patient with night
sweats, cyclical fevers, burning paresthesias, and need for
possible endocrine and nutritional workup. Records requested 
from
___ and ___ endo note from yesterday 
raises
concern for pituitary process and work-up. Notes at bedside
Interventions: none

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 
 
Past Medical History:
Gestational Diabetes
C-section 
Tubal Ligation
 
Social History:
___
Family History:
Reviewed and found to be not relevant to this
illness/reason for hospitalization.
 
Physical Exam:
Admission Exam:
VITALS: Temp: 98.6, BP: 116/74, HR: 78, RR: 20, O2 sat: 100%, O2
delivery: RA, Wt: 149.2 lb/67.68 kg
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema. Oropharynx without
visible lesion, erythema or exudate
Does have mild buffalo hump 
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly
symmetric with slight muscle wasting
SKIN: No obvious rashes or ulcerations noted on cursory skin 
exam
NEURO: Alert, oriented, face symmetric, speech fluent, moves all
limbs
PSYCH: pleasant, appropriate affect, tearful at times

Discharge Exam:
VITALS: ___ 0731 Temp: 98.7 PO BP: 114/76 R Lying HR: 101
RR: 16 O2 sat: 100% O2 delivery: Ra 
- Of note, has never been formally febrile in our system on this
admission
GENERAL: Alert and in no apparent distress
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
MSK: Neck supple, moves all extremities, strength grossly
symmetric with slight muscle wasting. Mildly TTP at para-spinal
muscles. No TTP at posterior iliac crests. 
SKIN: No obvious rashes or ulcerations noted on exposed skin.
Pt's skin complexion appears homogeneous diffusely, c/w her
___ ethnicity. No "redness" appreciated. 
NEURO: Alert, oriented, face symmetric, speech fluent, moves all
limbs
PSYCH: pleasant, appropriate affect

 
Pertinent Results:
___ 07:10PM BLOOD WBC-5.3 RBC-3.52* Hgb-10.6* Hct-32.5* 
MCV-92 MCH-30.1 MCHC-32.6 RDW-12.7 RDWSD-42.9 Plt ___
___ 07:10PM BLOOD Glucose-95 UreaN-12 Creat-0.7 Na-143 
K-4.0 Cl-104 HCO3-27 AnGap-12
___ 07:10PM BLOOD ALT-11 AST-16 CK(CPK)-73 AlkPhos-43 
TotBili-0.2
___ 07:10PM BLOOD Calcium-9.8 Phos-3.8 Mg-2.2
___ 10:30PM BLOOD VitB12-973*
___ 06:24AM BLOOD Cryoglb-NO CRYOGLO
___ 01:15PM BLOOD VitB12-1247*
___ 06:24AM BLOOD FSH-7.0 LH-3.8 Prolact-12 TSH-0.16*
___ 01:15PM BLOOD TSH-0.11*
___ 06:24AM BLOOD T3-99 Free T4-1.5
___ 07:10PM BLOOD 25VitD-22*
___ 06:24AM BLOOD Cortsol-15.5
___ 06:24AM BLOOD Estradl-27
___ 06:24AM BLOOD CRP-0.8
___ 07:10PM BLOOD HCV Ab-NEG
___ 01:48PM BLOOD Lactate-1.2
___ 07:10PM BLOOD MERCURY (WHLE BLD NVY/EDTA)-PND
___ 07:10PM BLOOD LEAD (WHOLE BLOOD)-Test      
___ 07:10PM BLOOD CHROMIUM (SPIN NVY/NO ADD)-PND
___ 07:10PM BLOOD DIPHENHYDRAMINE-PND
___ 07:10PM BLOOD THALLIUM, BLOOD-PND
___ 07:10PM BLOOD VITAMIN B6 (SPIN/PLASMA)-PND
___ 07:10PM BLOOD VITAMIN D ___ DIHYDROXY-PND
___ 06:24AM BLOOD ACTH - FROZEN-Test      
___ 06:24AM BLOOD SED RATE-Test      
___ 06:24AM BLOOD INSULIN-LIKE GROWTH FACTOR-1-Test      
 
Brief Hospital Course:
Ms. ___ is a ___ female with recent
history of steroid-induced weakness and anxiety/restlessness who
presents with worsening symptoms of weakness, night-drenching
sweats, fevers, cold/hot intolerance and episodes bilateral 
lower
extremity pain with transient episodic skin changes. 

#Fevers 
#Night sweats 
#Lower extremity pain / Parasthesias 
#Galactorhea 
#Sick Euthyroid vs hypothyroidism 
#Weakness - 
#Fevers 
#Night sweats 
#Lower extremity pain / Parasthesias 
#Galactorhea 
#Sick Euthyroid vs hypothyroidism 
#Weakness - 
Etiology unclear. Endocrine consultation from ___ appreciated,
and it appears that an endocrine dx is not a unifying cause for
all her sx. Similarly, Rheumatology consult from ___
appreciated, and appears that it no unifying Rheum-related dx 
can
be determined. Extensive discussions with our Toxicology 
consultants Dr. ___, with many pending tests (as below 
and in prior section). MRI for MS or other neuro pathology 
unrevealing on ___. Thus will dispo home today for continued 
w/u in outpt setting. 
- Ongoing tox workup as per OMR note
- D/c today to home w/ services
- F/u tox studies in outpt setting - I have communicated with
Toxicology Attending Dr. ___ will be following these
and communicating directly with the patient about these results
and their interpretation
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Ondansetron 4 mg PO Q8H:PRN nausea 
RX *ondansetron 4 mg 1 tablet(s) by mouth three times a day Disp 
#*30 Tablet Refills:*0 
2.  Vitamin D 1000 UNIT PO DAILY 
RX *ergocalciferol (vitamin D2) 2,000 unit 1 tablet(s) by mouth 
daily Disp #*30 Tablet Refills:*1 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Throat pain

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

We admitted you for various symptoms, and have conducted quite 
an extensive workup. We were unable to determine the exact cause 
of your symptoms, but having conducted an extensive workup, feel 
that you are safe to go home now. There are still multiple tests 
pending, and you will hear from us when those results are 
available. 

We wish you the best with your health.
___ Medicine
 
Followup Instructions:
___